US09388189B2
(S)-3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)phenyl methanesulfonate
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (170 mg, 0.29 mmol) was treated with 3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl methanesulfonate (300 mg, 0.67 mmol, prepared from the title compound of Preparation 105 and methanesulfonyl chloride according to Preparation 37), 2M cesium carbonate (450 μl, 0.90 mmols) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane (50 mg, 0.06 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 80%, hexane-ethyl acetate) to give 169 mg (66% yield) of the title compound. Purity 87%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.29 mmol, 170 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl methanesulfonate | CS(=O)(=O)OC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C14H22BNO7S2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | cesium carbonate | 0.90 mmols, 2M, 450 μl | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane | 0.06 mmol, 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].ClCCl.[Pd](Cl)Cl
product | (S)-3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)phenyl methanesulfonate | CS(=O)(=O)OC1=CC(=CC(=C1)NS(=O)(=O)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H42N8O7S2Si
